US06387904B2
5-(2-(4-(1,2-benzisothiazol-3-yl)-piperazinyl)ethyl)oxindole hydrochloride
To a 125 ml round-bottom flask equipped with nitrogen inlet and condenser were added 0.70 grams (3.20mmol) N-(3-benzisothiazolyl)-piperazine, 0.62 grams (3.20 mmol) 5-(2-chloroethyl)-oxindole, 0.68 grams (6.40 mmol) sodium carbonate, 2 mg sodium iodide, and 30 ml methylisobutyl ketone. The reaction was refluxed 40 hours, cooled, filtered, and evaporated. The residue was chromatographed on silica gel, eluting the byproducts with ethyl acetate (1:1) and the product with 4% methanol in ethyl acetate (1.5:1). The product fractions (Rf=0.2 in 5% methanol in ethyl acetate) were evaporated, taken up in methylene chloride, and precipitated by addition of ether saturated with HCl; the solid was filtered and washed with ether, dried, and washed with acetone. The latter was done by slurrying the solid acetone and filtering. The title compound was obtained as a high melting, non-hygroscopic solid product, m.p. 288°-288.5° C., 0.78 (59%).

reactant | N-(3-benzisothiazolyl)-piperazine | 3.20mmol, 0.70 grams | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | 5-(2-chloroethyl)-oxindole | 3.20 mmol, 0.62 grams | ClCCC=1C=C2CC(NC2=CC1)=O | C10H10ClNO
reactant | sodium carbonate | 6.40 mmol, 0.68 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutyl ketone | 30 ml | CC(=O)CC(C)C | C6H12O
product | 5-(2-(4-(1,2-benzisothiazol-3-yl)-piperazinyl)ethyl)oxindole hydrochloride | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC=2C=C1CC(NC1=CC2)=O | InChI=1S/C21H22N4OS.ClH/c26-20-14-16-13-15(5-6-18(16)22-20)7-8-24-9-11-25(12-10-24)21-17-3-1-2-4-19(17)27-23-21;/h1-6,13H,7-12,14H2,(H,22,26);1H
